US07667049B2
Synthesis of (3S,4R)-3-cyclopropylaminomethyl-4-fluoropyrrolidine dihydrochloride
To a solution of (3S,4R)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (4.74 g, 30.0 mmol) in 15 mL of methanol, 60.0 mL of a 10% hydrogen chloride-methanol solution was added dropwise over 10 minutes under stirring at room temperature. The mixture was stirred for 5 minutes. 75 mL of ethyl acetate was then added dropwise over 10 minutes and the mixture was further stirred for 10 minutes. 50 mL of ethyl acetate was further added dropwise over 10 minutes and the mixture was further stirred for 30 minutes. The resulting crystals were collected by filtration and washed with 100 mL of ethyl acetate. The washed product was dried at 50° C. under reduced pressure for 4 hours to give 4.98 g of the title compound as a faint brown crystalline powder (72% yield).

reactant | (3S,4R)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 30.0 mmol, 4.74 g | C1(CC1)NC[C@@H]1CNC[C@@H]1F | C8H15FN2
reactant | hydrogen chloride methanol | Cl.CO
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
product | (3S,4R)-3-cyclopropylaminomethyl-4-fluoropyrrolidine dihydrochloride | 4.98 g, 72% yield | Cl.Cl.C1(CC1)NC[C@@H]1CNC[C@@H]1F | InChI=1S/C8H15FN2.2ClH/c9-8-5-10-3-6(8)4-11-7-1-2-7;;/h6-8,10-11H,1-5H2;2*1H/t6-,8-;;/m0../s1
